US05547983
a) 3-(1-adamantyl)-4,5-methylenedioxybromobenzene
4.82 g (24.9 mmol) of acetoxyadamantane and 0.75 ml (139 mmol) of concentrated sulphuric acid are added to 5 g (24.9 mmol) of 3,4-methylenedioxybromobenzene in 35 ml of cyclohexane and 35 ml of heptane. The reaction medium is stirred at room temperature overnight. This medium is then hydrolyzed with 250 ml of water, neutralized with sodium bicarbonate, extracted with 200 ml of dichloromethane, dried over magnesium sulphate and evaporated, to give 2.89 g (34.8%) of the expected derivative which melts at 134° C.)

reactant | acetoxyadamantane | 24.9 mmol, 4.82 g | C(C)(=O)OC12CC3CC(CC(C1)C3)C2 | C12H18O2
reactant | sulphuric acid | 139 mmol, 0.75 ml | S(O)(O)(=O)=O | H2O4S
reactant | 3,4-methylenedioxybromobenzene | 24.9 mmol, 5 g | C1OC=2C=C(C=CC2O1)Br | C7H5BrO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | cyclohexane | 35 ml | C1CCCCC1 | C6H12
solvent | heptane | 35 ml | CCCCCCC | C7H16
solvent | water | 250 ml | O | H2O
product | 3-(1-adamantyl)-4,5-methylenedioxybromobenzene | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=C3C2OCO3)Br | C17H19BrO2
